US09290451B2
6-(3-Chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (Example 140 a) and α,α-dimethyl-2-thiazolemethanamine (CAN 1082393-38-1) as starting materials, MS (EI): m/e=449.1 [M+H]+.

reactant | 6-(3-chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)N1CC(C1)(F)F | C15H11ClF2N2O2
reactant | α,α-dimethyl-2-thiazolemethanamine | CC(N)(C=1SC=CN1)C | C6H10N2S
product | 6-(3-Chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide | CC(C)(C=1SC=CN1)NC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)C1=CC(=CC=C1)Cl | C21H19ClF2N4OS
